Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
prednisone / Nickel / fragances
 
Attending: ___.
 
Chief Complaint:
ataxia, dizziness

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ woman with vertigo, migraines, 
papillary carcinoma of the thyroid, L breast atypical 
hyperplasia who presents with dizziness and ataxia. 

On ___, she slipped and fell on ice and hit her right occiput 
on a car. There was no loss of consciousness, and she was able 
to drive home from an urgent care facility. She was diagnosed 
with a mild concussion. She had ___ days of neck/bilateral 
scapula/R back pain that has subsequently resolved. Also had a 
bifrontal headache that has improved. 

On ___, she woke up with "ataxia" where she was unable to walk. 
She was getting out of bed at 6am when suddenly the room started 
to spin clockwise. This lasted seconds-1 minute at most. She 
felt unsteady afterwards, and kept falling backwards when she 
was walking to the kitchen. The sensation of "feeling like a 
drunk sailor" was worse with movement (especially looking up or 
bending her head down). She needed to walk holding on to 
furniture. She has had ___ episodes per day of the room spinning 
sensation, but as long as she keeps her head completely still, 
she is able to walk around and drive to work. Since ___, 
however, she has gotten progressively worse where this sensation 
of her being unable to walk is now lasting the majority of the 
day. She went to urgent care today because of nausea and 
inability to walk. She also had a migraine this morning that 
improved with 600mg ibuprofen and her triptan. She does not 
currently have a headache. Zofran and meclizine helped her 
symptoms greatly. Epley maneuver was tried x2 and did not 
improve symptoms. 

Of note, she has a history of vertigo and migraines. She has had 
vertigo off and one for years, last episode was ___ years ago. 
Typically room spinning sensation lasts 1 full day and goes 
away. Improves with Epley maneuver. 

Her migraines started at ___ and are characterized as a TR 
frontal throbbing headache centered around her eye. Associated 
with nausea, photophobia, phonophobia. Better with pregnancy and 
menopause. Currently gets botox injects every 3 months, last 
botox injection was yesterday.  

In ___, she had a mammographic abnormality of her left breast. 
A stereotactic core needle biopsy was done, and she was found to 
have atypical ductal hyperplasia, atypical lobular hyperplasia, 
and flat epithelial atypia. She underwent a surgical biopsy, 
which showed benign pathology. 

No recent infections. Has baseline congenital hearing loss. 

 
Past Medical History:
vertigo, migraines, papillary carcinoma of the thyroid c/b 
hypothyroidism, breast tissue atypia (high risk for breast 
cancer)

 
Social History:
___
Family History:
 mother with leukemia, father with alcohol abuse/DM/stroke/TIAs, 
brother with ___ disease, maternal grandmother with 
stroke, maternal grandfather with MI, maternal aunt with colon 
cancer

 
Physical Exam:
Vitals:  T: 98.4F  HR: 65  BP: 135/76  RR: 18  SaO2: 97% RA
General: NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple, no 
meningismus, bilateral ears with ear wax obscuring view of 
tympanic membrane
___: RRR
Pulmonary: breathing comfortably
Abdomen: Soft, NT, ND
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate 
history without difficulty. Attentive,speech is fluent with full 
sentences, intact repetition, and intact verbal comprehension. 
Naming intact.  No paraphasias. No dysarthria. Normal prosody. 
Able to register 3 objects and recall ___ at 5 minutes. No 
apraxia. No evidence of hemineglect. No left-right confusion. 
Able to follow both midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting. 
EOMI, ___ beats of rotatory nystagmus on right gaze only that 
fatigues. No direction changing nystagmus. No skew. No 
refixation with head impulse test. V1-V3 without deficits to 
light touch bilaterally. No facial movement asymmetry. Hearing 
intact to finger rub bilaterally.  Palate elevation symmetric. 
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.

  [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    5 
 R   5     5     5     5     5    5     5     5     5    5
  
- Reflexes: 
       [Bic] [Tri] [___] [Quad] [Gastroc]
     L  3+    2+     3+      3+       1
     R  3+    2+     3+      3+       1  

Plantar response flexor bilaterally. Bilateral crossed adductors 
and pectoralis jerk 

- Sensory: No deficits to light touch or pin throughout. No 
decreased proprioception in her feet. 

- Coordination: No dysmetria with finger to nose testing or 
hell-knee-shin bilaterally. Good speed and intact cadence with 
rapid alternating movements. No cerebellar rebound. No overshoot 
on mirror testing. No truncal ataxia (when closing her eyes and 
crossing her arms, she tips backwards. Able to distract her by 
drawing numbers on her forehead, and she was very steady when 
concentrating on this task). 

- Gait: Normal initiation. Wide base. Very unsteady with both 
her feet together and eyes open, worse with eyes closed. 

On discharge: 
The exam was largely unchanged. ___ was positive with 
head to the left and not right. Her gait was unsteady.  
 
Pertinent Results:
___ 05:00AM BLOOD WBC-7.2 RBC-4.24 Hgb-12.6 Hct-38.0 MCV-90 
MCH-29.7 MCHC-33.2 RDW-13.2 RDWSD-43.4 Plt ___
___ 06:45PM BLOOD Neuts-65.9 ___ Monos-5.4 Eos-0.5* 
Baso-0.4 Im ___ AbsNeut-5.33 AbsLymp-2.21 AbsMono-0.44 
AbsEos-0.04 AbsBaso-0.03
___ 06:45PM BLOOD ALT-21 AST-19 AlkPhos-55 TotBili-0.3
___ 06:45PM BLOOD cTropnT-<0.01
___ 05:00AM BLOOD Calcium-9.4 Phos-4.7* Mg-2.4
___ 07:36PM BLOOD %HbA1c-5.5 eAG-111
___ 06:45PM BLOOD Triglyc-130 HDL-91 CHOL/HD-2.8 
LDLcalc-135*
___ 06:45PM BLOOD TSH-0.88
___ 06:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

MRI brain with and without 
1.  No evidence of hemorrhage, mass, or infarction. 
2.  Stable left middle cranial fossa arachnoid cyst. 

CTA head/neck
there is no occlusion, dissection, stenosis, or aneurysm of 
the anterior circulation, posterior circulation, circle ___, 
bilateral 
internal carotid arteries, bilateral vertebral arteries. Fetal 
origin of the  right posterior communicating artery is noted, 
normal variant. 

 
Brief Hospital Course:
___ is a ___ woman with a history of both 
vertiginous migraine and BPPV, migraine headaches, and thyroid 
cancer who presents with the inability to walk in the setting of 
progressively worsening vertigo. The patient had a recent head 
strike prior to the onset of these symptoms. She underwent an 
MRI of the brain and a CTA of the head and neck - both without 
relevant pathology. Her vertigo was likely due to a combination 
of factors. She had evidence of benign paroxysmal positional 
vertigo of the posterior canal. Due to the longer duration of 
the vertigo, this may have been a cupulolithiasis. She also had 
oculomotor abnormalities (eg. impaired vergance and hypometric 
saccades) that suggested a central process. Dr. ___ 
___ head strike and mild concussion may have accentuated her 
vertigo. Migraine is also a likely factor in her vertigo. She 
was seen by our vestibular ___ who recommended 24 hour 
supervision and outpatient vestibular ___.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 40 mg PO DAILY 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. ___ Ultra Women (multivitamin-iron-folic acid) ___ 
mg-mcg oral DAILY 
4. Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation DAILY 
5. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze 
6. ALPRAZolam 0.5 mg PO BID:PRN anxiety 
7. BuPROPion 150 mg PO DAILY 
8. Calcitrate (calcium citrate) 200 mg (950 mg) oral DAILY 
9. Cetirizine 10 mg PO DAILY 
10. naratriptan 2.5 mg oral BID:PRN 
11. TraZODone 50 mg PO QHS 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze  
2.  ALPRAZolam 0.5 mg PO BID:PRN anxiety  
3.  BuPROPion 150 mg PO DAILY  
4.  Calcitrate (calcium citrate) 200 mg (950 mg) oral DAILY  
5.  Cetirizine 10 mg PO DAILY  
6.  Citalopram 40 mg PO DAILY  
7.  Levothyroxine Sodium 75 mcg PO DAILY  
8.  naratriptan 2.5 mg oral BID:PRN migraine  
9.  ___ Ultra Women (multivitamin-iron-folic acid) 
___ mg-mcg oral DAILY  
10.  Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation DAILY  
11.  TraZODone 50 mg PO QHS  
12.Outpatient Physical Therapy
Vestibular physical therapy 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
vertigo
Migraine

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Dr ___ presented to the hospital for worsening vertigo. Your MRI of 
the brain and CT of the blood vessels was normal. ___ were seen 
by physical therapy who recommended outpatient vestibular ___ and 
a week of relative rest. 
 
Followup Instructions:
___